US04962096
2-Benzyloxy-3-hexadecyloxypropyl 1,1-dimethyl-1,2,3,4-tetrahydroquinolinio-2-ylmethyl phosphate
The procedures of Example 7 were repeated using 406 mg of 2-benzyloxy-3-hexadecyloxy-1-propanol, 580 mg of 1,1-dimethyl-1,2,3,4-tetrahydro-2-hydroxymethylquinolinium p-toluenesulfonate prepared in Reference Example 11, 0.1 ml of phosphorus oxychloride, 0.3 ml of triethylamine, 3 ml of chloroform having passed through an alumina column, and 8 ml of dry pyridine, to give 150 mg of the desired compound.

reactant | 2-benzyloxy-3-hexadecyloxy-1-propanol | 406 mg | C(C1=CC=CC=C1)OC(CO)COCCCCCCCCCCCCCCCC | C26H46O3
reactant | 1,1-dimethyl-1,2,3,4-tetrahydro-2-hydroxymethylquinolinium p-toluenesulfonate | 580 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1(C(CCC2=CC=CC=C12)CO)C
reactant | phosphorus oxychloride | 0.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Benzyloxy-3-hexadecyloxypropyl 1,1-dimethyl-1,2,3,4-tetrahydroquinolinio-2-ylmethyl phosphate | 150 mg | P(=O)(OCC(COCCCCCCCCCCCCCCCC)OCC1=CC=CC=C1)(OC=C1[N+](C2=CC=CC=C2CC1)(C)C)[O-] | C38H60NO6P
